US20010016659A1
To a solution of 4-(3-carboxy-4-hydroxyphenoxy)-1-nitrobenzene (prepared from 2,5-dihydroxybenzoic acid in a manner analogous to that described in Method A13, Step 1, 12 mmol) in acetone (50 mL) was added K2CO3 (5 g) and dimethyl sulfate (3.5 mL). The resulting mixture was heated at the reflux temp. overnight, then cooled to room temp. and filtered through a pad of Celite®. The resulting solution was concentrated under reduced pressure, absorbed onto SiO2, and purified by column chromatography (50% EtOAc / 50% hexane) to give 4-(3-methoxycarbonyl-4-methoxyphenoxy)-1-nitrobenzene as a yellow powder(3 g): mp 115-118° C.

reactant | 4-(3-carboxy-4-hydroxyphenoxy)-1-nitrobenzene | C(=O)(O)C=1C=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1O | C13H9NO6
reactant | 2,5-dihydroxybenzoic acid | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfate | 3.5 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 4-(3-methoxycarbonyl-4-methoxyphenoxy)-1-nitrobenzene | 3 g | COC(=O)C=1C=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1OC | C15H13NO6
